US07176323B2
3-(5,5-Dimethyl-1,3-dioxan-2-yl)-1-(3,4-dimethylphenyl)butan-1-one
2-Bromo-1-(3,4-dimethylphenyl)ethan-1-one (6.2 g) and N,N-bis(2-methylpropyl)-1-propenylamine (6.8 g) were added to 25 ml of acetonitrile under an atmosphere of nitrogen and the mixture was stirred at around 50° C. for 4 hours. After cooling the reaction mixture to 10° C., 25 ml of water, 4.3 g of neopentyl glycol, 6.2 g of concentrated sulfuric acid and 0.62 g of para-toluenesulfonic acid were added to the reaction mixture and the mixture was stirred at around 60° C. for 1 hour. After cooling the reaction mixture to the room temperature, crystals precipitated. These crystals were isolated by filtration to give 6.6 g (yield 84%) of the title compound as white crystals.

reactant | 2-Bromo-1-(3,4-dimethylphenyl)ethan-1-one | 6.2 g | BrCC(=O)C1=CC(=C(C=C1)C)C | C10H11BrO
reactant | N,N-bis(2-methylpropyl)-1-propenylamine | 6.8 g | CC(CN(CC(C)C)C=CC)C | C11H23N
reactant | neopentyl glycol | 4.3 g | OCC(C)(CO)C | C5H12O2
reactant | sulfuric acid | 6.2 g | S(O)(O)(=O)=O | H2O4S
reactant | para-toluenesulfonic acid | 0.62 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 25 ml | O | H2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3-(5,5-Dimethyl-1,3-dioxan-2-yl)-1-(3,4-dimethylphenyl)butan-1-one | 6.6 g, yield 84% | CC1(COC(OC1)C(CC(=O)C1=CC(=C(C=C1)C)C)C)C | C18H26O3
